US07399780B2
2-Hydroxy-3-{5-[(4-methylpiperidin-1-yl)methyl]pyridin-2-yl}-1H-indole-5-carbonitrile
To a suspension of sodium hydride (60% in mineral oil, 54 mg, 1.35 mmol) in N,N-dimethylformamide (1 mL) was added 5-cyanooxindole (161 mg, 1.02 mmol), and the mixture was stirred at ambient temperature for 10 min. To the obtained brownish solution was added a solution of 2-chloro-5-[(4-methylpiperidin-1-yl)methyl]pyridine 1-oxide (163 mg, 0.677 mmol) in N,N-dimethylformamide (1.5 mL). The reaction mixture was heated at 130° C. for 25 min, and was then allowed to cool. The solvent was removed in vacuo, and is to the residue was added 2 M HCl(aq). The obtained precipitate was partitioned between a saturated aqueous NaHCO3 solution and ethyl acetate. The aqueous layer was extracted with another two portions of ethyl acetate. The combined organic layers were dried (Na2SO4), and the solvent was removed in vacuo affording a crude product. The material was dissolved in ethyl acetate (25 mL), and phosphorus trichloride (0.24 mL, 2.71 mmol) was added. An orange precipitate was immediately formed. The mixture was heated at reflux for 30 min, and was then allowed to cool. The mixture was partitioned between ethyl acetate and a saturated aqueous NaHCO3 solution. The aqueous layer was extracted with another portion of ethyl acetate. The combined organic layers were dried (Na2SO4), and the solvent was evaporated. The crude product was purified on a silica gel column using chloroform/methanol, (95:5), as the eluent followed by preparative HPLC (column: Xterra, C8, 7 μm, 19×300 mm; eluent: 0.1 M NH4OAc buffer/acetonitrile, 8:2 to 4:6) affording 4 mg (2% yield) of the title compound as an orange solid: 1H NMR (acetone-d6, 400 MHz) δ 9.88 (br s, 1 H), 8.11 (d, J=1 Hz, 1 H), 7.90 (dd, J=9, 2 Hz, 1 H), 7.85 (d, J=9 Hz, 1 H), 7.82 (d, J=1 Hz, 1 H), 7.26 (dd, J=8, 2 Hz, 1 H), 7.11 (d, J=8 Hz, 1 H), 3.44 (s, 2 H), 2.91-2.86 (m, 2 H), 2.10-1.98 (m, 2 H), 1.65-1.59 (m, 2 H), 1.40-1.35 (m, 1 H), 1.28-1.16 (m, 2 H), 0.92 (d, J=7 Hz, 3 H); MS (ES) m/z 347 (M++1).

reactant | sodium hydride | 1.35 mmol, 54 mg | [H-].[Na+]
reactant | 5-cyanooxindole | 1.02 mmol, 161 mg | C(#N)C=1C=C2CC(NC2=CC1)=O | C9H6N2O
reactant | 2-chloro-5-[(4-methylpiperidin-1-yl)methyl]pyridine 1-oxide | 0.677 mmol, 163 mg | ClC1=[N+](C=C(C=C1)CN1CCC(CC1)C)[O-] | C12H17ClN2O
reactant | phosphorus trichloride | 2.71 mmol, 0.24 mL | P(Cl)(Cl)Cl | Cl3P
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 25 mL | C(C)(=O)OCC | C4H8O2
product | 2-Hydroxy-3-{5-[(4-methylpiperidin-1-yl)methyl]pyridin-2-yl}-1H-indole-5-carbonitrile | 4 mg, 2% yield | OC=1NC2=CC=C(C=C2C1C1=NC=C(C=C1)CN1CCC(CC1)C)C#N | C21H22N4O
